US07112593B2
a) 2-Benzyl-1-hydroxy-4-iodobenzene
6.87 g of 2-benzylphenol, 7.2 g of sodium iodide and 1.7 g of sodium hydroxide were added to 60 ml of methanol and while stirring in an ice bath, 50 ml of an aqueous 5% sodiumhypochlorite solution was added dropwise to the mixture over 30 minutes. The temperature was slowly returned to room temperature and the stirring was continued overnight. Water was added to the reaction mixture, which then was extracted with ethyl acetate, washed with brine and then dried over anhydrous magnesium sulfate. The solvent was removed and the residue was purified by silica gel column chromatography (30% ethyl acetate/hexane), to give 10.1 g of the title compound.

reactant | 2-benzylphenol | 6.87 g | C(C1=CC=CC=C1)C1=C(C=CC=C1)O | C13H12O
reactant | sodium iodide | 7.2 g | [I-].[Na+]
reactant | sodium hydroxide | 1.7 g | [OH-].[Na+]
reactant | sodiumhypochlorite | Cl[O-].[Na+]
solvent | Water | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | 2-Benzyl-1-hydroxy-4-iodobenzene | 10.1 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)I)O | C13H11IO
